US05856503
7.2 g of aluminium chloride are added to 80 ml of nitrobenzene at 5° C. and a solution of 8 g of 4-bromo-2-chloro-benzoyl chloride in 20 ml of nitrobenzene is added dropwise in such a manner that the temperature does not exceed 10° C. After stirring and adding 3.26 ml of anisole the reaction mixture is warmed to room temperature, stirred and subsequently poured on to ice-water and extracted with methylene chloride. The extracts are washed with saturated sodium chloride solution, dried and evaporated. There are obtained 10.0 g of (4-bromo-2-chloro-phenyl)-(4-methoxy-phenyl)-methanone, MS: m/e 324 (M+H+, 1 Br).

reactant | aluminium chloride | 7.2 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 4-bromo-2-chloro-benzoyl chloride | 8 g | BrC1=CC(=C(C(=O)Cl)C=C1)Cl | C7H3BrCl2O
reactant | anisole | 3.26 ml | C1(=CC=CC=C1)OC | C7H8O
solvent | nitrobenzene | 20 ml | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
solvent | nitrobenzene | 80 ml | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
product | (4-bromo-2-chloro-phenyl)-(4-methoxy-phenyl)-methanone | 10.0 g | BrC1=CC(=C(C=C1)C(=O)C1=CC=C(C=C1)OC)Cl | C14H10BrClO2
